* opamp_core open-loop AC testbench -- DC gain, GBW, phase margin, Iq (issue #17)
*
* Measures `design/netlist/opamp_core.spice`'s open-loop small-signal AC
* response into CL = 2 pF [DR-001], plus the quiescent supply current at the
* same operating point, at one (corner, temperature) point. bin/pvt_sweep.py
* renders this template once per point by substituting the placeholders
* below and invoking ngspice -b on the result -- this file is never run
* directly (the placeholders are not valid ngspice syntax on their own).
*
* -------------------------------------------------------- bias / topology
* `design/netlist/opamp_core.spice` is xschem's *flat top-level* netlist for
* this block (its `.subckt`/`.ends` lines are commented out -- opamp_core.sch
* is this repo's top schematic, not a hierarchical leaf cell) -- so it is
* included directly and its own node names (vdd, vss, inn, inp, out, ibias)
* are driven straight from this testbench, with no `X` subcircuit
* instantiation wrapper.
*
* `ibias`: per `design/opamp_core.sch`'s header comment, the block expects a
* 5 uA reference current SUNK INTO the block through this pin, feeding the
* on-chip diode-connected reference MB1. Modeled as a current source from
* vdd into the ibias node (Iref vdd ibias 5u), matching that framing
* and DR-002 (a)'s adopted 5 uA reference branch.
*
* Open-loop AC gain measurement method: a DC operating-point servo (a very
* large resistor Rfb from `out` to `inn`, with a large capacitor Cfb from
* `inn` to ground) sets the correct closed-loop DC bias point (the servo's
* own corner frequency, 1/(2*pi*Rfb*Cfb), sits many decades below this
* sweep's start frequency) while presenting an effectively open circuit at
* every AC analysis frequency actually swept -- so the AC response from
* 1 Hz upward is the amplifier's true open-loop response, not a
* closed-loop one. This is the standard "DC servo" open-loop AC testbench
* technique (as opposed to closing an explicit feedback network and probing
* loop gain at a break point, which does not apply here since this device
* has no feedback network of its own). Stated explicitly per this issue's
* acceptance criteria ("state which" method is used for the loop-broken/
* high-gain-approximation open-loop gain measurement).
*
* The AC excitation (ac 1) is applied only at `inp` (the non-inverting
* input, per `design/opamp_core.sch`'s header "polarity" section) so
* vdb(out)/vp(out) directly report the open-loop gain/phase in dB/radians
* (ngspice's vp() output is in RADIANS, confirmed against a trivial R-C
* low-pass testbench whose high-frequency phase asymptote lands at exactly
* -pi/2; bin/pvt_sweep.py converts to degrees when parsing this testbench's
* .meas output).
*
* R+C corner: sky130's resistor/capacitor process corner is an axis
* orthogonal to the 5-corner MOS grid this experiment sweeps (like
* temperature is orthogonal to the MOS grid in
* sim/gm-id-characterization/corners/README.md's "What is not a corner axis
* here"). This testbench always includes the *typical* R+C corner (both
* r+c/res_typical__cap_typical.spice and its __lin sibling) at every MOS
* process corner, a stated methodology choice (not a re-derivation of
* Rz/Cc's own process spread) -- see ../README.md and ../pdk.json.

.option scale=1u
.param mc_mm_switch=0
.param mc_pr_switch=0
.include "/Users/rwalters/.volare/sky130A/libs.tech/ngspice/corners/ss.spice"
.include "/Users/rwalters/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice"
.include "/Users/rwalters/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice"
.temp -40.0

.include "/Users/rwalters/GitHub/sky130-opamp/.loom/worktrees/issue-17/design/netlist/opamp_core.spice"

Vdd vdd 0 dc 1.62
Vss vss 0 dc 0
Iref vdd ibias dc 5u
Vinp inp 0 dc 0.81 ac 1
Rfb out inn 1e12
Cfb inn 0 1
Cload out 0 2p

.control
op
let iq_a = -i(vdd)
let pq_w = iq_a * 1.62
print iq_a
print pq_w
ac dec 20 1 1g
meas ac gain_dc_db find vdb(out) at=1
meas ac gbw_hz when vdb(out)=0 cross=1
meas ac phase_at_gbw_rad find vp(out) when vdb(out)=0 cross=1
.endc
.end
